US08071625B2
To a chilled solution of diisopropylamine (3.5 mL, 24.7 mmol) in THF (20 mL) at −78° C. was added n-BuLi (2M in hexane, 14.8 mL, 1.2 equiv.). The reaction mixture was stirred for 1 h. A solution of 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate (5 g, 20.6 mmol, 1 equiv.) in THF (15 mL) was added dropwise at −78° C. The reaction mixture was stirred for 1 h. Methyl chloroformate (1.7 mL, 22.6 mmol, 1.1 equiv.) was added to the above mixture. The reaction mixture was warmed to rt slowly while stirring. After 3 h, the reaction mixture was quenched with saturated NH4Cl and extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated to give 1-tert-butyl 4,4-dimethyl piperidine-1,4,4-tricarboxylate (6.2 g, quant.), which was used without further purification. LRMS (M+H+-Boc) m/z 202.1.

reactant | diisopropylamine | 24.7 mmol, 3.5 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 2M, 14.8 mL, 1.2 equiv. | [Li]CCCC
reactant | 1-tert-butyl 4-methyl piperidine-1,4-dicarboxylate | 20.6 mmol, 5 g, 1 equiv. | N1(CCC(CC1)C(=O)OC)C(=O)OC(C)(C)C | C12H21NO4
reactant | Methyl chloroformate | 22.6 mmol, 1.7 mL, 1.1 equiv. | ClC(=O)OC | C2H3ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 1-tert-butyl 4,4-dimethyl piperidine-1,4,4-tricarboxylate | 6.2 g | N1(CCC(CC1)(C(=O)OC)C(=O)OC)C(=O)OC(C)(C)C | C14H23NO6
